US04381395
To a suspension of N-cyano-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]thiourea (monohydrate, 765 mg) in CH2Cl2 (7 ml) was introduced dry HCl gas for a few minutes under ice-cooling. PCl5 (1.25 g) was added to the mixture and stirred at room temperature for 3 hrs. The reaction mixture containing N'-cyano-N-[2-(5-methylimidazol-4-ylmethylthio)ethyl]chloroformamidine was concentrated to small volume, diluted with CH2Cl2 (5 ml) and cooled to -5° C. To the mixture was added a solution of CH3NH2 in C2H5OH (40%, 15 ml) below 30° C. After stirring for 20 hrs. at room temperature, the reaction mixture was filtered and the filtrate was concentrated to small volume, diluted with CH3CN and filtered agein. The filtrate was dried up and the residue was purified with column chromatography [SiO2, CH3CN-CH3OH (4:1)], preparative thin layer chromatography [SiO 2, CH3COOC2H5 --CH3OH-- 28% NH3 (aq) (10:1:1)] and then recrystallization from CH3CN to give N"-cyano-N-methyl-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]guanidine (10.4 mg). Yield 1.5%, m.p. 136.5°-138° C.

reactant | N-cyano-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]thiourea | 765 mg | C(#N)NC(=S)NCCSCC=1N=CNC1C | C9H13N5S2
reactant | HCl | Cl | ClH
reactant | PCl5 | 1.25 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N'-cyano-N-[2-(5-methylimidazol-4-ylmethylthio)ethyl]chloroformamidine | C(#N)N=C(NCCSCC=1N=CNC1C)Cl | C9H12ClN5S
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
product | N"-cyano-N-methyl-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]guanidine | 10.4 mg, Yield 1.5% | C(#N)N=C(NC)NCCSCC=1N=CNC1C | C10H16N6S
